US20010007873A1
F. 2-(2-Cyclobutyl-4-benzyloxy-phenyl)-6-(2,5-d imethyl-pyrrol-1-yl)-pyridine
Prepared as in Example 1E using 2-cyclobutyl4-benzyloxy-benzeneboronic acid and 2-bromo-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine, in 78% yield.

reactant | 2-cyclobutyl4-benzyloxy-benzeneboronic acid | C1(CCC1)C1=C(C=CC(=C1)OCC1=CC=CC=C1)B(O)O | C17H19BO3
reactant | 2-bromo-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine | BrC1=NC(=CC=C1)N1C(=CC=C1C)C | C11H11BrN2
product | 2-(2-Cyclobutyl-4-benzyloxy-phenyl)-6-(2,5-d imethyl-pyrrol-1-yl)-pyridine | 78% yield | C1(CCC1)C1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NC(=CC=C1)N1C(=CC=C1C)C | C28H28N2O
